US05990102
c. 6-(3-chlorophenyl)hexylamine
A suspension of 1-(phthalimido)-6-(3-chlorophenyl)hex-1-yne (10 g, 30 mmol) in methanol (100 ml) was treated with platinum oxide (250 mg) and the mixture hydrogenated at 50 psi for 72 h. Further quantities of catalyst were added at intervals and when the theoretical uptake of hydrogen was complete, the mixture was filtered and the filtrate evaporated to a brown oil (9.5 g, 96%). This was dissolved in IMS 99 (100 ml) and treated with hydrazine hydrate (2.8 g, 56 mmol) under reflux for 16 h. The mixture was cooled to 5° C. and the precipitated solid removed by filtration. Evaporation of the filtrate gave an oil which was taken up in ether, washed with water, dried (Na2SO4) and evaporated to a brown oil (5.8 g, 98%)

reactant | 1-(phthalimido)-6-(3-chlorophenyl)hex-1-yne | 30 mmol, 10 g | C1(C=2C(C(N1C#CCCCCC1=CC(=CC=C1)Cl)=O)=CC=CC2)=O | C20H16ClNO2
reactant | hydrogen | [H][H] | H2
reactant | hydrazine hydrate | 56 mmol, 2.8 g | O.NN
solvent | methanol | 100 ml | CO | CH4O
solvent | ether | CCOCC | C4H10O
catalyst | platinum oxide | 250 mg | [Pt]=O
product | 6-(3-chlorophenyl)hexylamine | ClC=1C=C(C=CC1)CCCCCCN | C12H18ClN
